US09278944B2
Methyl (3-{5-[1-(cyclopropylamino)ethyl]-2-methoxypyridin-3-yl}prop-2-yn-1-yl)carbamate and (2R)-4-(tert-butoxycarbonyl)morpholine-2-carboxylic acid were treated in the similar manner to Example 162 to give tert-butyl (2R)-2-({cyclopropyl[1-(6-methoxy-5-{3-[(methoxycarbonyl)amino]prop-1-yn-1-yl}pyridin-3-yl)ethyl]amino}carbonyl)morpholine-4-carboxylate [Ex(296-4)] as a colorless oil.

reactant | Methyl (3-{5-[1-(cyclopropylamino)ethyl]-2-methoxypyridin-3-yl}prop-2-yn-1-yl)carbamate | C1(CC1)NC(C)C=1C=C(C(=NC1)OC)C#CCNC(OC)=O | C16H21N3O3
reactant | (2R)-4-(tert-butoxycarbonyl)morpholine-2-carboxylic acid | C(C)(C)(C)OC(=O)N1C[C@@H](OCC1)C(=O)O | C10H17NO5
product | tert-butyl (2R)-2-({cyclopropyl[1-(6-methoxy-5-{3-[(methoxycarbonyl)amino]prop-1-yn-1-yl}pyridin-3-yl)ethyl]amino}carbonyl)morpholine-4-carboxylate | C1(CC1)N(C(=O)[C@H]1CN(CCO1)C(=O)OC(C)(C)C)C(C)C=1C=NC(=C(C1)C#CCNC(=O)OC)OC | C26H36N4O7
